US07022694B2
2(a). tert-Butyl 1-(2-phenoxyethyl)-6,7,9,10-tetrahydroazepino[4,5-g]indole-8(1H)-carboxylate
Under N2, a flame-dried, 50-mL, three-necked flask was charged with tert-butyl 1-(2-hydroxyethyl)-6,7,9,10-tetrahydroazepino[4,5-g]indole-8(1H)-carboxylate (0.148 g, 0.45 mmol), triphenylphosphine (0.177 g, 3.86 mmol), phenol (0.064 g, 0.675 mmol), and anhydrous THF (3 mL). Di-tert-butyl azodicarboxylate (0.155 g, 0.675 mmol) was added and the mixture was allowed to stir at room temperature for 16 hours. An additional alloquot of triphenylphosphine (0.059 g, 0.225 mmol) and di-tert-butyl azodicarboxylate (0.052 g, 0.225 mmol) was added, and the mixture was allowed to stir at room temperature for an additional 60 hours. The mixture was concentrated, dissolved in CH2Cl2, and directly subjected to column chromatography (elution with 10–30% EtOAc/heptane) to give 0.135 g (74%) of a clear oil: 1H NMR (400 MHz, CDCl3) δ 7.42 (d, J=8 Hz, 1 H), 7.32–7.26 (m, 2 H), 7.13 (d, J=3 Hz, 1 H), 7.02–6.94 (m, 2 H), 6.90–6.87 (m, 2 H), 6.50 (d, J=3 Hz, 1 H), 4.73 (t, J=6 Hz, 2 H), 4.31 (t, J=6 Hz, 2 H), 3.91–3.70 (m, 2 H), 3.70–3.63 (m, 2 H), 3.46–3.36 (m, 2 H), 3.14–3.05 (m, 2 H), 1.47 (s, 9 H).

reactant | tert-butyl 1-(2-hydroxyethyl)-6,7,9,10-tetrahydroazepino[4,5-g]indole-8(1H)-carboxylate | 0.45 mmol, 0.148 g | OCCN1C=CC2=CC=C3C(=C12)CCN(CC3)C(=O)OC(C)(C)C | C19H26N2O3
reactant | triphenylphosphine | 3.86 mmol, 0.177 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phenol | 0.675 mmol, 0.064 g | C1(=CC=CC=C1)O | C6H6O
reactant | Di-tert-butyl azodicarboxylate | 0.675 mmol, 0.155 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | triphenylphosphine | 0.225 mmol, 0.059 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 0.225 mmol, 0.052 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | tert-Butyl 1-(2-phenoxyethyl)-6,7,9,10-tetrahydroazepino[4,5-g]indole-8(1H)-carboxylate | 0.135 g, 74% | O(C1=CC=CC=C1)CCN1C=CC2=CC=C3C(=C12)CCN(CC3)C(=O)OC(C)(C)C | C25H30N2O3
